US09056859B2
Triethyl orthoformate (5.29 ml, 31.8 mmol) and 2-(4-aminophenyl) propionic acid (3.26 g, 19.73 mmol) were suspended in acetic acid (50 ml) then added sodium azide (1.924 g, 29.6 mmol). The mixture was refluxed for 3 hours then let stirred at room temperature overnight. The reaction was poured into water (60 ml) and extracted with ethyl acetate (60 ml). The organic layer was separated and dried over MgSO4. The mixture was filtered and concentrated to yield 2-[4-(1H-tetrazol-1yl)phenyl]propanoic acid (4.2 g, 98%). LC-MS (IE, m/z): 219 [M+1]+.

reactant | Triethyl orthoformate | 31.8 mmol, 5.29 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | 2-(4-aminophenyl) propionic acid | 19.73 mmol, 3.26 g | NC1=CC=C(C=C1)C(C(=O)O)C | C9H11NO2
reactant | sodium azide | 29.6 mmol, 1.924 g | [N-]=[N+]=[N-].[Na+]
reactant | water | 60 ml | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2-[4-(1H-tetrazol-1yl)phenyl]propanoic acid | 4.2 g, 98% | N1(N=NN=C1)C1=CC=C(C=C1)C(C(=O)O)C | C10H10N4O2
